### PR TITLE
Added short exact sequences

### PR DESCRIPTION
**Pull request by tpannila**
This pull request contains formalization of short exact sequences. There are
4 definitions:
- ShortShortExact for  A -> B -> C.
- LeftShortExact and RightShortExact for 0 -> A -> B -> C and A -> B -> C -> 0,
  respectively.
- ShortExact for 0 -> A -> B -> C -> 0

Using factorization property for morphisms of Abelian_precategory, the
following are formalized:
- Construct the canonical ShortExact from ShortShortExact by using image and
  coimage.
- A criteria for constructing ShortShortExact from data similar to the
  canonical ShortExact obtained from ShortShortExact.

All comments are welcome.

### CODE REVIEW

**Comment by tpannila** [comment]
I rebased, generalized MorphismPair to precategories and ShortShortExactData to
precategories with homsets and zero object. Now ShortShortExactData can be used 
for distinguished triangles in triangulated categories and kernel-cokernel pairs in 
Quillen exact categories. These categories are Additive, not Abelian.

The filename Morphisms.v is not good and neither is the name
ShortShortExactData. Suggestions for better names are welcome.

**Comment by benediktahrens** [comment]
Hi Tomi,

I am a bit overwhelmed by the quantity of code you are submitting for inclusion in UniMath, and I (and others, apparently) cannot keep up with reviewing it.
I imagine that this is holding you back in your progress, since you are having different pieces of code in different branches.
As a remedy, I suggest you suspend filing PRs until we can ensure faster review. Instead, you can work on your own fork.

Obviously, we are still interested in improvements to code in UniMath, and corresponding PRs. These are quicker to review, and I will make an effort to ensure merging within a few days at most.
I (and others, I suppose) will still be happy to answer any question you might have.
One place to ask questions is by email to univalent-mathematics@googlegroups.com .

**Comment by vladimirias** [comment]
Hi Tomi,

let me add that we are also interested in the new code that you write. We are simply a bit overloaded with various work we need to do. The main point of Benedikt’s message is, I think, that we don’t want this to hold you back. If you continue working on your fork now while keeping open the PR’s that you have already submitted then as soon as we can review these PRs they will be merged and you will know that it is time to submit the next ones!

Vladimir.

**Comment by tpannila** [comment]
Hi Benedikt and Vladimir ,

I understand. I will continue to formalize homological algebra on my fork and
and file pull requests after my current PRs have been merged or closed. 

Benedikt, I registered to univalent-mathematics google group.

**Comment by DanGrayson** [comment]
Is there a reason to prefer
```
  Definition MorphismPair : UU
    := Σ a : (C × C × C),
             (pr1 a --> (pr1 (pr2 a))) × (pr1 (pr2 a) --> (pr2 (pr2 a))).
```
to
```
  Definition MorphismPair : UU := Σ (a b c:C), a-->b  ×  b-->c.
```
?

**Comment by DanGrayson** [comment]
I wonder whether the name of the category A has to appear explicitly in so many places:
```
  Definition ShortShortExactData_Im
             (SSED : ShortShortExactData A (Abelian_Zero A)) :
    Kernel (Abelian_Zero A)
           (CokernelArrow
              (Abelian_Zero A)
              (Abelian_Cokernel
                 A (MorphismPairMor1
                      A (ShortShortExactData_MorphismPair
                           A (Abelian_Zero A) SSED))))
    :=  Abelian_Im
          A (MorphismPairMor1 A (ShortShortExactData_MorphismPair
                                   A (Abelian_Zero A) SSED)).
```

**Comment by benediktahrens** [comment]
On 09/06/2016 08:08 PM, Daniel R. Grayson wrote:
> Is there a reason to prefer
> ```
>   Definition MorphismPair : UU
>     := Σ a : (C × C × C),
>              (pr1 a --> (pr1 (pr2 a))) × (pr1 (pr2 a) --> (pr2 (pr2 a))).
> ```
> to
> ```
>   Definition MorphismPair : UU := Σ (a b c:C), a-->b  ×  b-->c.
> ```
> ?

One reason I could think of is that the first one is closer to a
balanced tree, and such balanced sigmas often result in faster compilation.
I suppose the reason is that many projections are necessary in the
second, unbalanced, case.

I seem to remember such a situation in code I wrote, but would need to
search to point to that place.

**Comment by DanGrayson** [comment]
Somehow, "exact" looks better than "apply" here:
```
diff --git a/UniMath/CategoryTheory/ShortExactSequences.v b/UniMath/CategoryTheory/ShortExactSequences.v
index b96ea38..6f73587 100644
--- a/UniMath/CategoryTheory/ShortExactSequences.v
+++ b/UniMath/CategoryTheory/ShortExactSequences.v
@@ -97,7 +97,7 @@ Section def_shortexactseqs.
                 A (ShortShortExactData_MorphismPair A (Abelian_Zero A) SSED))).
     rewrite ZeroArrow_comp_right.
     rewrite assoc. rewrite <- fact.
-    apply (ShortShortExactData_Eq A (Abelian_Zero A) SSED).
+    exact (ShortShortExactData_Eq A (Abelian_Zero A) SSED).
   Qed.
 
   (** Coimage of the second morphism and equality of morphisms associated
```

**Comment by DanGrayson** [comment]
Defining a function called `isKernel` might make this shorter:
```
  Definition ShortShortExact : UU
    := Σ SSED : ShortShortExactData A (Abelian_Zero A),
                isEqualizer (MorphismPairMor2
                               A (ShortShortExactData_MorphismPair
                                    A (Abelian_Zero A) SSED))
                            (ZeroArrow A (Abelian_Zero A) _ _)
                            (KernelArrow (Abelian_Zero A)
                                         (ShortShortExactData_Im SSED))
                            (KernelEqRw
                               (Abelian_Zero A)
                               (ShortShortExactData_Im_Eq SSED)).
```

**Comment by DanGrayson** [comment]
Have you noticed that coqtop in proof general takes forever to check the type of the lemma `ShortShortExact_from_isCoequalizer_eq1` ?

**Comment by DanGrayson** [comment]
A more balanced tree could also be obtained this way, if balance is important:
```
 Definition MorphismPair : UU := Σ (b:C), (Σ (a:C), a-->b)  ×  (Σ (c:C), b-->c).
```

**Comment by DanGrayson** [comment]
I find it hard to read gigantic code like this:
```
  Lemma ShortShortExact_from_isCoequalizer_isEqualizer
        (SSED : ShortShortExactData A (Abelian_Zero A))
        (H : isCoequalizer
                (MorphismPairMor1
                   A (ShortShortExactData_MorphismPair A (Abelian_Zero A) SSED))
                (ZeroArrow A (Abelian_Zero A) _ _)
                (CokernelArrow
                   (Abelian_Zero A)
                   (ShortShortExactData_CoIm A SSED))
                (CokernelEqRw
                   (Abelian_Zero A)
                   (ShortShortExactData_CoIm_Eq A hs SSED))) :
    isEqualizer (MorphismPairMor2
                   A (ShortShortExactData_MorphismPair A (Abelian_Zero A) SSED))
                (ZeroArrow A (Abelian_Zero A) _ _)
                (KernelArrow
                   (Abelian_Zero A)
                   (ShortShortExactData_Im A SSED))
                (KernelEqRw
                   (Abelian_Zero A)
                   (ShortShortExactData_Im_Eq A hs SSED)).
```
My eyes grow numb.  Is there any way we could reduce the size?

Let's look at just a tiny part : ` (ShortShortExactData_Im A SSED) `.  Here SSED is a pair of composable arrows whose composite is zero, and the expression denotes the image of the first one.

Perhaps we could write it as ` image (arrow1 ssed) `, by letting A be implicit and choosing shorter names.  Is there really a need for the long form of the name of the type to be included in the name of the function?  If there are various functions names "image" and we need one that's not the most recently imported, we could qualify the name further.

**Comment by DanGrayson** [comment]
In response to your question in the text of the file, this shows that lots of parameters can be made implicit:
```
diff --git a/UniMath/CategoryTheory/ShortExactSequences.v b/UniMath/CategoryTheory/ShortExactSequences.v
index b96ea38..32a1eec 100644
--- a/UniMath/CategoryTheory/ShortExactSequences.v
+++ b/UniMath/CategoryTheory/ShortExactSequences.v
@@ -865,76 +865,26 @@ Section shortexact_correspondence.
   Definition ShortExact_ShortShortExact_isEqualizer
              (SSE : ShortShortExact A hs) :
     isEqualizer
-      (MorphismPairMor2
-         A (ShortShortExactData_MorphismPair
-              A (Abelian_Zero A)
-              (mk_ShortShortExactData
-                 A (Abelian_Zero A)
-                 (mk_MorphismPair
-                    A (KernelArrow
-                         (Abelian_Zero A)
-                         (Abelian_Im
-                            A (MorphismPairMor1
-                                 A (ShortShortExactData_MorphismPair
-                                      A (Abelian_Zero A)
-                                      (ShortShortExact_ShortShortExactData
-                                         A hs SSE)))))
-                    (CokernelArrow
-                       (Abelian_Zero A)
-                       (Abelian_CoIm
-                          A (MorphismPairMor2
-                               A (ShortShortExactData_MorphismPair
-                                    A (Abelian_Zero A)
-                                    (ShortShortExact_ShortShortExactData
-                                       A hs SSE))))))
-                 (ShortExact_from_ShortShortExact_eq SSE))))
-      (ZeroArrow A (Abelian_Zero A) _ _)
-      (KernelArrow
-         (Abelian_Zero A)
-         (ShortShortExactData_Im
-            A (mk_ShortShortExactData
-                 A (Abelian_Zero A)
-                 (mk_MorphismPair
-                    A (KernelArrow
-                         (Abelian_Zero A)
-                         (Abelian_Im
-                            A (MorphismPairMor1
-                                 A (ShortShortExactData_MorphismPair
-                                      A (Abelian_Zero A)
-                                      (ShortShortExact_ShortShortExactData
-                                         A hs SSE)))))
-                    (CokernelArrow
-                       (Abelian_Zero A)
-                       (Abelian_CoIm
-                          A (MorphismPairMor2
-                               A (ShortShortExactData_MorphismPair
-                                    A (Abelian_Zero A)
-                                    (ShortShortExact_ShortShortExactData
-                                       A hs SSE))))))
-                 (ShortExact_from_ShortShortExact_eq SSE))))
-      (KernelEqRw
-         (Abelian_Zero A)
-         (ShortShortExactData_Im_Eq
-            A hs
-            (mk_ShortShortExactData
-               A (Abelian_Zero A)
-               (mk_MorphismPair
-                  A (KernelArrow
-                       (Abelian_Zero A)
-                       (Abelian_Im
-                          A (MorphismPairMor1
-                               A (ShortShortExactData_MorphismPair
-                                      A (Abelian_Zero A)
-                                      (ShortShortExact_ShortShortExactData
-                                         A hs SSE)))))
-                  (CokernelArrow
-                     (Abelian_Zero A)
-                     (Abelian_CoIm
-                        A (MorphismPairMor2
-                             A (ShortShortExactData_MorphismPair
-                                  A (Abelian_Zero A)
-                                  (ShortShortExact_ShortShortExactData
-                                     A hs SSE))))))
+      (MorphismPairMor2 _
+         (ShortShortExactData_MorphismPair _ _
+            (mk_ShortShortExactData _ _
+              (mk_MorphismPair _ (KernelArrow _ (Abelian_Im _
+                 (MorphismPairMor1 _ (ShortShortExactData_MorphismPair _ _ (ShortShortExact_ShortShortExactData _ _ SSE)))))
+                       (CokernelArrow _ (Abelian_CoIm _ (MorphismPairMor2 _
+                          (ShortShortExactData_MorphismPair _ _ (ShortShortExact_ShortShortExactData _ _ SSE))))))
+              (ShortExact_from_ShortShortExact_eq SSE))))
+      (ZeroArrow _ _ _ _)
+      (KernelArrow _ (ShortShortExactData_Im _ (mk_ShortShortExactData _ _
+         (mk_MorphismPair _ (KernelArrow _ (Abelian_Im _ (MorphismPairMor1 _
+             (ShortShortExactData_MorphismPair _ _ (ShortShortExact_ShortShortExactData _ _ SSE)))))
+                          (CokernelArrow _ (Abelian_CoIm _ (MorphismPairMor2 _
+                               (ShortShortExactData_MorphismPair _ _ (ShortShortExact_ShortShortExactData _ _ SSE))))))
+         (ShortExact_from_ShortShortExact_eq SSE))))
+      (KernelEqRw _ (ShortShortExactData_Im_Eq _ hs (mk_ShortShortExactData _ _
+         (mk_MorphismPair _ (KernelArrow _ (Abelian_Im _ (MorphismPairMor1 _
+             (ShortShortExactData_MorphismPair _ _ (ShortShortExact_ShortShortExactData _ _ SSE)))))
+                          (CokernelArrow _ (Abelian_CoIm _ (MorphismPairMor2 _
+                              (ShortShortExactData_MorphismPair _ _ (ShortShortExact_ShortShortExactData _ _ SSE))))))
                (ShortExact_from_ShortShortExact_eq SSE)))).
   Proof.
     set (SSED := ShortShortExact_ShortShortExactData A hs SSE).
```

**Comment by DanGrayson** [comment]
And notice that all those "set"s can be relocated to the statement of the lemma, making them more convenient:
```
  (* Is there a way to clean the type of the following definition ? *)
  Definition ShortExact_ShortShortExact_isEqualizer
             (SSE : ShortShortExact A hs) :
    let SSED := ShortShortExact_ShortShortExactData _ _ SSE in
    let MP := ShortShortExactData_MorphismPair _ _ SSED in
    let mor1 := MorphismPairMor1 _ MP in
    let mor2 := MorphismPairMor2 _ MP in
    let Im := Abelian_Im _ mor1 in
    let CoIm := Abelian_CoIm _ mor2 in
    let pr := (mk_MorphismPair _ (KernelArrow _ Im) (CokernelArrow _ CoIm)) in
    let eqn := ShortExact_from_ShortShortExact_eq SSE in
    let ssed' := mk_ShortShortExactData _ _ pr eqn in
    isEqualizer
      (MorphismPairMor2 _ (ShortShortExactData_MorphismPair _ _ ssed'))
      (ZeroArrow _ _ _ _)
      (KernelArrow _ (ShortShortExactData_Im _ ssed'))
      (KernelEqRw _ (ShortShortExactData_Im_Eq _ hs ssed')).
  Proof.
    intros.
    cbn in *.
    use mk_isEqualizer.
    intros w h H'.
    use unique_exists.

    (* Construction of the morphism *)
    - use KernelIn.
      + exact h.
      + rewrite ZeroArrow_comp_right in H'.
        apply (SHortExact_ShortShortExact_isEqualizer_Eq SSE w h H').

    (* Commutativity *)
    - apply KernelCommutes.

    (* Equality on equalities of morphisms *)
    - intros y. apply hs.

    (* Uniqueness *)
    - intros y T. apply KernelInsEq.
      rewrite T. apply pathsinv0.
      apply KernelCommutes.
  Qed.

  Definition ShortExact_from_ShortShortExact (SSE : ShortShortExact A hs) :
    ShortExact A hs.
  Proof.
    set (SSED := ShortShortExact_ShortShortExactData A hs SSE).
    set (SSED_Eq := ShortShortExactData_Eq A (Abelian_Zero A) SSED).
    set (MP := ShortShortExactData_MorphismPair A (Abelian_Zero A) SSED).
    set (mor1 := MorphismPairMor1 A MP).
    set (mor2 := MorphismPairMor2 A MP).

    set (Im := Abelian_Im A mor1).
    set (CoIm := Abelian_CoIm A mor2).

    use mk_ShortExact.
    - use mk_ShortShortExact.
      + use mk_ShortShortExactData.
        * use mk_MorphismPair.
          -- exact Im.
          -- exact (MorphismPairOb2 A MP).
          -- exact CoIm.
          -- exact (KernelArrow (Abelian_Zero A) Im).
          -- exact (CokernelArrow (Abelian_Zero A) CoIm).
        * exact (ShortExact_from_ShortShortExact_eq SSE).
      + exact (ShortExact_ShortShortExact_isEqualizer SSE).
    - exact (KernelArrowisMonic (Abelian_Zero A) _).
    - exact (CokernelArrowisEpi (Abelian_Zero A) _).
  Defined.
```

**Comment by tpannila** [comment]
@DanGrayson, I followed your suggestions and cleaned the code. I hope it is now more
readable. The only thing I didn't do was `isKernel`. I will try do this later when there are no 
open pull requests which use kernels.

**Comment by DanGrayson** [comment]
Good, thanks.

What about my idea of making the category A an implicit argument of most of the functions?  Then we could write `Abelian_Im f` instead of `Abelian_Im A f`.

What about making arguments of type `Zero C` implicit, too?  Then we could write `(CokernelArrow CoIm)` instead of `(CokernelArrow (Abelian_Zero A) CoIm)`

And what about the idea of removing all those lengthy prefixes from lots of names?  Then we could write `Im f` instead of `Abelian_Im A f`.  In case of ambiguity with other functions called `Im`, one could always qualify it as `Abelian.Im f`.

**Comment by DanGrayson** [comment]
... @vladimirias may have an opinion about whether shortening names is a good idea, as I suggested above.

**Comment by vladimirias** [comment]
I agree with Dan, shorter notations here should be possible and would make things much more useful. The first thing that asks to be not repeated all the time is (Abelian_Zero A). Would (Abelian_Zero _) work? If so lets have a notation “0” for  (Abelian_Zero _) in the scope Abelian_precat.

Do you need “ShortExactData” with the composition different from (Abelian_Zero A)? ShortExact always means that the composition is zero.

Maybe this will help. Let’s continue this conversation.

**Comment by DanGrayson** [comment]
Re: " Would (Abelian_Zero _) work? "

Experiment shows that even "_" works here.  So it can be made implicit and will disappear entirely.

**Comment by tpannila** [comment]
Hi Dan, I rebased, experimented with implicit arguments, and removed some prefixes. Is ShortExactSequences.v now better or worse?

**Comment by DanGrayson** [comment]
Thank you, it's much improved, here are a few comments for your consideration.

`Abelian_AbelianData1` could be `AbelianData1`.  Similarly for `Abelian_AbelianData2`.

`MorphismPairOb1` could be `Ob1` and similarly for`, `MorphismPairOb2`,
`MorphismPairOb3`, `MorphismPairMor1`, `MorphismPairMor2`.

changing
```
Kernel Abelian.Zero (CokernelArrow (Abelian.Cokernel (MorphismPairMor1 SSED))) :=
```
to
```
Kernel _ (CokernelArrow (Abelian.Cokernel (MorphismPairMor1 SSED))) :=
```
works, so we can make one more argument of Kernel implicit.

`Kernel` defines a type but `Image` doesn't, so it looks strange.  I usually use capitalization to distinguish types from other things, except for types that begin with "is" or "has".  Or do you prefer to use a prefix, such as "mk"?

`ShortShortExactData_Im` could have the same name as `Image`, since it's in a different module.  Similarly `ShortShortExactData_Im_Eq`, `ShortShortExactData_CoIm`, `ShortShortExactData_CoIm_Eq` could be shortened.

Since you have `LeftShortExact_isMonic` and a suitable coercion, you do not need `ShortExact_isMonic`.  Then since there's only one like that, it could be shortened to `isMonic`.  Similarly for `ShortExact_isEpi`.

I see these coercions:
```
  Coercion LeftShortExact_ShortShortExact : LeftShortExact >-> ShortShortExact.
  Coercion RightShortExact_ShortShortExact : RightShortExact >-> ShortShortExact.
  Coercion ShortExact_ShortShortExact : ShortExact >-> ShortShortExact.
  Coercion ShortExact_LeftShortExact : ShortExact >-> LeftShortExact.
  Coercion ShortExact_RightShortExact : ShortExact >-> RightShortExact.
```
The third one is redundant, because it can be obtained as a composite of the other two.

**Comment by tpannila** [comment]
Cannot chage `Abelian_AbelianData1` to `AbelianData1` because it exists already in Abelian.v.
Similarly for `AbelianData2`. This should not be a big problem because one almost never uses these
definitions directly. One uses `Zero`, `BinProducts`, `BinCoproducts`, `Kernels`, and `Cokernels`.

If I change the Zero implicit for Kernel, then in many places KernelArrow cannot find the implicit
Zero.

I removed the redundant coercion, and the prefixes `ShortShortExactData`, `LeftShortExact`, and
`RightShortExact` in the places you suggested. Also, I fixed the MorphismPair stuff you suggested.

**Comment by DanGrayson** [comment]
Re "Cannot chage Abelian_AbelianData1 to AbelianData1 because it exists already in Abelian.v. Similarly for AbelianData2. This should not be a big problem because one almost never uses these definitions directly. One uses Zero, BinProducts, BinCoproducts, Kernels, and Cokernels."

I have in mind people reading your files, not the ultimate users

There are many identifiers in Abelian.v that have Abelian as a prefix.  Such prefixes are not needed to distinguish these things from each other.  For example, `AbelianData1` could be `Data1`.

The type of `Abelian_AbelianData1` is `AbelianPreCat -> AbelianData1 A`.   It might be good to try to find names for functions that give at hint at them being functions and at what they do.  

In addition, all these functions should have analogous names:
```
  (** Accessor functions Abelian. *)
  Definition Zero : Zero A := pr1 (pr2 (pr1 A)).
  Definition BinProducts : BinProducts A := pr1 (pr2 (pr2 (pr1 A))).
  Definition BinCoproducts : BinCoproducts A := pr2 (pr2 (pr2 (pr1 A))).
  Definition Abelian_AbelianData1 : AbelianData1 A := (pr2 (pr1 A)).
  Definition Kernels : Kernels Zero := pr1 (pr1 (pr2 A)).
  Definition Cokernels : Cokernels Zero := pr2 (pr1 (pr2 A)).
  Definition Abelian_AbelianData2 : AbelianData2 A Abelian_AbelianData1 := pr1 (pr2 A).
  Definition AMKD : AbelianMonicKernelsData A (pr2 (pr1 A)) := pr1 (pr2 (pr2 A)).
  Definition AECD : AbelianEpiCokernelsData A (pr2 (pr1 A)) := pr2 (pr2 (pr2 A)).
```
The line `Definition BinProducts : BinProducts A := pr1 (pr2 (pr2 (pr1 A))).` is confusing because the two `BinProducts`s are different sorts of things: one is a type and the other is not.
 
Perhaps one could implement a way to distinguish accessor functions from other things, so they fit together and don't tend to get read as types.  For example, they could all start with "to".  Then we could have this:
```
  (** Accessor functions Abelian. *)
  Definition toZero : Zero A := pr1 (pr2 (pr1 A)).
  Definition toBinProducts : BinProducts A := pr1 (pr2 (pr2 (pr1 A))).
  Definition toBinCoproducts : BinCoproducts A := pr2 (pr2 (pr2 (pr1 A))).
  Definition toData1 : Data1 A := (pr2 (pr1 A)).
  Definition toKernels : Kernels Zero := pr1 (pr1 (pr2 A)).
  Definition toCokernels : Cokernels Zero := pr2 (pr1 (pr2 A)).
  Definition toData2 : Data2 A Abelian_AbelianData1 := pr1 (pr2 A).
  Definition toAMKD : AbelianMonicKernelsData A (pr2 (pr1 A)) := pr1 (pr2 (pr2 A)).
  Definition toAECD : AbelianEpiCokernelsData A (pr2 (pr1 A)) := pr2 (pr2 (pr2 A)).
```
There might be other good ideas.

**Comment by vladimirias** [comment]
> On Sep 9, 2016, at 3:30 PM, Daniel R. Grayson <notifications@github.com> wrote:
> 
> The type of Abelian_AbelianData1 is AbelianPreCat -> AbelianData1 A. It might be good to try to find names for functions that give at hint at them being functions and at what they do.

Yes, this is important for understanding and we have a standard way of doing it by using “to” in the middle such as stntonat.

**Comment by tpannila** [comment]
I added `to_` prefix for accessor functions and fixed coding style or the following files
- limits/BinDirectSums.v
- category_abgr.v
- ShortShortExactSequences.v
- PrecategoriesWithBinOps.v
- PrecategoriesWithAbgrops.v
- PreAdditive.v
- Additive.v
- AbelianToAdditive.v
- Abelian.v

Note that I rebased and only the 3 most recent commits are new.

File: UniMath/CategoryTheory/AbelianToAdditive.v [hunk 1]
```diff
@@ -0,0 +1,809 @@
...
+        rewrite H'. repeat rewrite ZeroArrow_comp_right. apply idpath.
+      + rewrite <- assoc. rewrite (BinProductPr2Commutes A _ _ BinProd _ _ (identity X)).
+        apply id_right.
+    (* equality of equalities of morphisms *)
+    - intros y. apply hs.
+    (* uniqueness *)
+    - intros y H. rewrite <- H. rewrite <- assoc.
+      rewrite (BinProductPr2Commutes A _ _ BinProd _ _ (identity X)).
+      rewrite id_right. apply idpath.
+  Qed.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/AbelianToAdditive.v]: Often, when you prove unique existence of something, you want to remember how you constructed the unique thing. 
When you `Qed` your proof, you don't remember the construction, even though you will be able to *prove* afterwards that that unique thing is equal to the thing you used to construct it.
However, sometimes it comes in handy to have a judgmental equality instead, so that the unique thing *unfolds* to what you constructed it as.
For this to work, you need to use `Defined`. 
In that case, it is often advisable to have the proofs of the properties opaque, by doing them in separate lemmas or using `abstract (...)` blocks. The former is generally preferable to the latter, and abstract blocks should only be used for very simple subproofs.

**Comment by DanGrayson** [comment]
LGTM

I wonder if it would be good to advertise the convention behind mutations like `Kernel` -> `Kernels` -> `hasKernels` somewhere, which seems to already be in force in `CategoryTheory`.  Are there other such conventions worth knowing about?

**Comment by tpannila** [comment]
There was a conflict so I rebased. The last commit is the only new one. I fixed Abelian_precategory
to AbelianPreCat in a few places and closed the two proofs on isEqualizer with Defined, as
@benediktahrens suggested. There are still some proofs closed with Qed where I use `unique_exists`.
I will fix these in some subsequent pull request.

@DanGrayson , I don't know other such conventions.
